reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@:3]1([H:13])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]/[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],107.57466220219601
[C:1]1([H:8])([H:9])[C:2][C@@:6]2([H:16])[C:5]([H:14])([H:15])[C@:4]([C:3]([H:10])([H:11])[H:12])([H:13])[C@@:7]12[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],13.8614023432321
[C:1]([C:2]([C:5]([C:3](=[O:4])[H:13])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:17]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],91.4492902506656
[O:1]=[C:2]([N+:3]([C-:4]([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],25.2891671034141
[H:7][H:10].[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:11])([H:12])[C@:5]1([O:6][H:14])[H:13])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C@:5]1([O:6][H:14])[H:13])[H:7],74.58330931315331
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C:1]([C@:4]1([H:10])[O:3][C:2]([H:9])=[C:6]([H:12])[C:5]1([H:8])[H:11])[H:7],96.6091702969475
[O:1]=[N:2][C:3]1([H:7])[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],61.119302268449914
[N:1]#[C:2][C@@:3]1([H:8])[C-:4]([H:10])[C:5]([H:9])([H:11])[N+:7]1=[C:6]([H:12])[H:13]>>[N:1]#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[C:6]([H:12])([H:13])[N:7]12,37.76732745480281
[C-:1]([O+:2]=[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])[H:8].[C:4]([H:9])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],21.969552415307703
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[C:6])[H:8])[H:7],41.1577373670335
[C-:1]([N+:2]1=[C:3]([N:4]([H:10])[H:11])[C@:5]1([O:6][H:9])[H:12])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],7.624938602205404
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]1([O:3][H:15])[N:4]([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1)([H:8])[H:9],42.54731014620271
[O:1]([C:2]([C:3]([N:5]([C:4][H:10])[H:12])([H:9])[H:11])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],42.7871670289263
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:14])[H:13])([H:6])([H:7])[H:8].[H:9][H:15],89.04823702764179
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:14])([C:6](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],69.7861059097423
[C:1](=[C:2]1[N:3]([H:10])[O:6][C:5]([H:7])([H:12])[N:4]1[H:11])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],62.8263383841596
[C:1](/[C:2](=[C:5](\[O:6][C:3](=[O:4])[H:12])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],30.634440101949114
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([O:5][H:14])=[C:6]([H:16])[C:7]1([H:15])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],90.06228434551221
[C:1]([C@@:2]1([C:6](=[O:7])[H:13])[O:3][C@:4]1([O:5][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],49.58577600897859
[C:1](=[C:2])([C:3]#[N:4])[C:5]#[N:6]>>[C:1](#[C:2][C:3]#[N:4])[C:5]#[N:6],3.8997282509489963
[C-:1]=[C:2]([N+:4]#[C:3])[H:5]>>[C:1](#[C:2][H:5])[C:3]#[N:4],22.846533936811895
[C:1]([C:2]([C:3]([C:4]([C:6]#[N:7])([H:13])[H:14])=[C:5]([H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:18]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],95.1209451561655
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]1([H:11])[C:3](=[C:7]([C:6](=[N:5][H:12])[H:13])[H:14])[N-:4]1)([H:8])([H:9])[H:10],82.0401685450411
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:4]/[C:3](=[N:2]/[H:8])[H:9])([H:5])([H:6])[H:7],74.7605737761873
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:7])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])\[H:8],44.95415867979071
